US09428452B2
4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)benzamide
Methyl 4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)benzoate (280 mg, 0.746 mmol) was dissolved in tetrahydrofuran (THF) (5 mL) and to this solution was added ammonia in dioxane (0.5 M) (4.47 mL, 2.237 mmol), followed by LiHMDS in THF (1 M, 0.895 mL, 0.895 mmol). The reaction was left to stir overnight at room temperature, under nitrogen. The reaction was quenched with water (1 mL) then combined with a previous identical trial reaction on a smaller (0.075 mmol) scale, for workup. The crude was concentrated in vacuo, then the product was extracted to the organic phase of an aqueous work up between ethyl acetate (15 mL) and brine (10 mL). The organic phase was passed through a hydrophobic frit and concentrated in vacuo to give the crude product, 263 mg. No further purification was undertaken. LCMS [LCMS1] Rt 1.14 min, m/z (ES+) 361 (M+H).

reactant | Methyl 4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)benzoate | 0.746 mmol, 280 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C(=O)OC)C=C1)CC(C)C | C20H25NO4S
reactant | ammonia | N | H3N
reactant | dioxane | 2.237 mmol, 0.5 M, 4.47 mL | O1CCOCC1 | C4H8O2
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | THF | 0.895 mmol, 1 M, 0.895 mL | O1CCCC1 | C4H8O
product | 4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)benzamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C(=O)N)C=C1)CC(C)C | C19H24N2O3S
